US09029531B2
Step A: methyl 2-(6-(3-hydroxyazetidin-1-yl)pyridin-2-yl)acetate
The solution of methyl 2-(6-bromopyridin-2-yl)acetate (500.0 mg, 2.17 mmol), azetidin-3-ol hydrochloride (285.9 mg, 2.61 mmol), CuI (248.3 mg, 1.30 mmol), L-proline (149.7 mg, 1.30 mmol) and Cs2CO3 (24.7 g, 75.7 mmol) in DMSO (6 mL) was stirred at 90 degree for 12 h under N2. After cooling to room temperature, the reaction mixture was filtered, diluted with H2O and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a standard method to give desired compound.

reactant | methyl 2-(6-bromopyridin-2-yl)acetate | 2.17 mmol, 500.0 mg | BrC1=CC=CC(=N1)CC(=O)OC | C8H8BrNO2
reactant | azetidin-3-ol hydrochloride | 2.61 mmol, 285.9 mg | Cl.N1CC(C1)O
reactant | L-proline | 1.30 mmol, 149.7 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Cs2CO3 | 75.7 mmol, 24.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
catalyst | CuI | 1.30 mmol, 248.3 mg | [Cu]I
product | methyl 2-(6-(3-hydroxyazetidin-1-yl)pyridin-2-yl)acetate | OC1CN(C1)C1=CC=CC(=N1)CC(=O)OC | C11H14N2O3
